US09388172B2
To a 5 mL round-bottomed flask was added 4,4,4-trifluoro-3-((2-(3-(trifluoromethyl)phenyl)-morpholinomethyl)butanoic acid hydrochloride (100 mg, 260 μmol), 4-fluorobenzohydrazide (40.0 mg, 260 μmol) and POCl3 (1.99 g, 1.21 ml, 13.0 mmol). The reaction mixture was heated at reflux (110° C.) for 4 hr. The crude reaction mixture was allowed to cool to room temperature, poured into ice/water and made basic with a saturated Na2CO3 solution. The resulting mixture was extracted with ethyl acetate. The organic phase was washed with brine and H2O, dried over MgSO4, filtered and concentrated. The crude material was purified by flash chromatography (silica gel, 12 g, 0% to 40% ethyl acetate in CH2Cl2/hexane (1:1) to afford 4-{3,3,3-trifluoro-2-[5-(4-fluoro-phenyl)-[1,3,4]oxadiazol-2-ylmethyl]-propyl}-2-(3-trifluoromethyl-phenyl)morpholine as an oil (93 mg, 67%). 4-{3,3,3-Trifluoro-2-[5-(4-fluoro-phenyl)-[1,3,4]oxadiazol-2-ylmethyl]-propyl}-2-(3-trifluoromethyl-phenyl)morpholine (45 mg) was dissolved in ether/hexane, treated with 4N HCl in dioxane (0.2 ml) and concentrated to afford 48 mg of 4-{3,3,3-trifluoro-2-[5-(4-fluoro-phenyl)-[1,3,4]oxadiazol-2-ylmethyl]-propyl}-2-(3-trifluoromethyl-phenyl)morpholine hydrochloride as a white solid. LCMS MH+=504.

reactant | 4-{3,3,3-Trifluoro-2-[5-(4-fluoro-phenyl)-[1,3,4]oxadiazol-2-ylmethyl]-propyl}-2-(3-trifluoromethyl-phenyl)morpholine | 45 mg | FC(C(CN1CC(OCC1)C1=CC(=CC=C1)C(F)(F)F)CC=1OC(=NN1)C1=CC=C(C=C1)F)(F)F | C23H20F7N3O2
reactant | HCl | 4N | Cl | ClH
solvent | ether hexane | CCOCC.CCCCCC
solvent | dioxane | 0.2 ml | O1CCOCC1 | C4H8O2
product | 4-{3,3,3-trifluoro-2-[5-(4-fluoro-phenyl)-[1,3,4]oxadiazol-2-ylmethyl]-propyl}-2-(3-trifluoromethyl-phenyl)morpholine hydrochloride | 48 mg | Cl.FC(C(CN1CC(OCC1)C1=CC(=CC=C1)C(F)(F)F)CC=1OC(=NN1)C1=CC=C(C=C1)F)(F)F | InChI=1S/C23H20F7N3O2.ClH/c24-18-6-4-14(5-7-18)21-32-31-20(35-21)11-17(23(28,29)30)12-33-8-9-34-19(13-33)15-2-1-3-16(10-15)22(25,26)27;/h1-7,10,17,19H,8-9,11-13H2;1H
